US08022206B2
8-Chloro-1,2,3,4-tetrahydronaphthalen-1-ol
A solution of 8-chloro-3,4-dihydronaphthalen-1(2H)-one (1.26 mmol) in MeOH (4 mL) at 0° C. was quickly charged with a solution of sodium borohydride (3.23 mmol, 2.5 eq) in MeOH (2 mL). The reaction was stirred for 1.5 h from 0° C. to ambient temperature. The reaction was quenched with water and extracted with ether. All organic layers were combined and dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was dissolved in minimal CH2Cl2 and was purified by two rounds of pTLC [Silicycle, 20×20 plate, 1000 μm, one development in neat CH2Cl2], giving the title material as an off-white solid. 1H NMR (400 MHz, CDCl3) δ=1.72-1.85 (m, 2H), 1.92-2.05 (m, 1H), 2.16-2.24 (m, 1H), 2.38 (dd, J=3.8, 1.3 Hz, 1H), 2.71 (ddd, J=17.7, 12.1, 5.8 Hz, 1H), 2.82-2.92 (m, 1H), 5.09 (q, J=3.5 Hz, 1H), 7.06 (d, J=7.6 Hz, 1H), 7.15 (dd, J=7.7, 7.7 Hz, 1H), 7.24 (d, J=7.8 Hz, 1H). MS (ES+): m/z 164.98/166.98 (100/53) [MH+−H2O]. HPLC: tR=3.14 min (ZQ3, polar—5 min).

reactant | 8-chloro-3,4-dihydronaphthalen-1(2H)-one | 1.26 mmol | ClC=1C=CC=C2CCCC(C12)=O | C10H9ClO
reactant | sodium borohydride | 3.23 mmol, 2.5 eq | [BH4-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 8-Chloro-1,2,3,4-tetrahydronaphthalen-1-ol | ClC=1C=CC=C2CCCC(C12)O | C10H11ClO
